US07678818B2
A solution of 930 mg (1.68 mmol) of N-(4-benzyloxy-benzyl)-5-chloro-2-methylamino-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide (2 mmol) in 30 ml ethylacetate was hydrogenated over 300 mg of 5% Pd—C for 4 hours at RT. After completion of the reaction, the suspension was filtered, the catalyst washed with additional ethyl acetate and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (silica gel; heptane/-EtOAc 3:1) to give 339 mg 5-chloro-N-(4-hydroxy-benzyl)-2-methylamino-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide (75%) as a white foam. MS (ISP) 463 (M+H)+.

reactant | N-(4-benzyloxy-benzyl)-5-chloro-2-methylamino-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 1.68 mmol, 930 mg | C(C1=CC=CC=C1)OC1=CC=C(CN(C(C2=C(C=CC(=C2)Cl)NC)=O)CCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C31H28ClF3N2O2
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | 5-chloro-N-(4-hydroxy-benzyl)-2-methylamino-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-benzamide | 339 mg, 75% | ClC=1C=CC(=C(C(=O)N(CCC2=CC(=CC=C2)C(F)(F)F)CC2=CC=C(C=C2)O)C1)NC | C24H22ClF3N2O2
